US06914074B2
6-(2,6-Difluoro-4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 2-(2,6-difluoro-4-methoxyphenyl)-6-methoxynaphthalene (1.5 g, 5.0 mmol) with boron tribromide (25 mL of 1.0 M solution in CH2Cl2, 25 mmol) according to method D to yield 1.35 g (99%) of a yellowish solid: mp>240° C.; 1H NMR (DMSO-d6): δ 6.55-6.63 (2H, m), 7.11 (1H, dd, J=8.76 Hz, J=2.34 Hz), 7.15 (1 h, d, J=2.05 Hz), 7.36 (1H, dd, J=8.58 Hz, J=1.34 Hz), 7.39 (1H, d, J=8.83 Hz), 7.79 (1H, s), 7.80 (1H, d, J=8.74 Hz), 9.85 (1H, s), 10.48 (1H, s); MS (ESI) m/z271 (M−H)−; MS (ESI) m/z543 (2M−H)−.

reactant | 2-(2,6-difluoro-4-methoxyphenyl)-6-methoxynaphthalene | 5.0 mmol, 1.5 g | FC1=C(C(=CC(=C1)OC)F)C1=CC2=CC=C(C=C2C=C1)OC | C18H14F2O2
reactant | boron tribromide | 25 mmol, 1.0 M, 25 mL | B(Br)(Br)Br | BBr3
product | 6-(2,6-Difluoro-4-hydroxyphenyl)-2-naphthol | FC1=C(C(=CC(=C1)O)F)C=1C=C2C=CC(=CC2=CC1)O | C16H10F2O2
